US04565817
1.4 g. 3-(2,3-epoxy-propyl)-5-methyl-1,2,4-oxadiazole and 1.8 g. of theophylline are boiled under stirring in a mixture of 20 cm3 isopropyl alcohol and 0.1 cm3 of pyridine for 8 hours. 2.75 g. (86% yield) of 7-[2-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)-propan-1-yl]-theophylline are obtained.

reactant | 3-(2,3-epoxy-propyl)-5-methyl-1,2,4-oxadiazole | O1C(CC2=NOC(=N2)C)C1 | C6H8N2O2
reactant | theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
solvent | isopropyl alcohol | 20 cm3 | C(C)(C)O | C3H8O
solvent | pyridine | 0.1 cm3 | N1=CC=CC=C1 | C5H5N
product | 7-[2-hydroxy-3-(5-methyl-1,2,4-oxadiazol-3-yl)-propan-1-yl]-theophylline | 86% yield | OC(CN1C=NC=2N(C(N(C)C(C12)=O)=O)C)CC1=NOC(=N1)C | C13H16N6O4
